US07611647B2
5. Preparation of 4-chloro-2-fluoro-3-methoxybenzaldehyde
To a solution of 2-chloro-6-fluoroanisole (321.2 g) in 2 L of dry tetrahydrofuran (THF), cooled to −70° C., was added 890 mL of 2.5 M n-BuLi in hexane over 30 min with good mechanical stirring. During the addition the reaction warmed to −48 to −50° C. and was held there for 15 min after addition was complete. The solution was cooled to −75° C. before a solution of 177 g of dimethylformamide (DMF) in 100 mL of THF was added keeping the temperature below −50° C. The reaction was warmed to room temperature and 260 g of 37% aqueous HCl was slowly added and stirring was continued for 2 hours. The phases were separated and the organic phase concentrated and taken into 2 L of ether. The solution was washed twice with 500 mL of aqueous 10% HCl. The organic phase was dried over MgSO4, filtered and concentrated to 372 g of a light gold oil (93% pure by GC). This oil was distilled bulb to bulb to give 282 g (75% yield) of a light gold oil that solidified upon standing. A small sample was crystallized from pentane to give fine white needles; MP 44-45° C.; 1H NMR (CDCl3, 300 MHz) δ 10.3 (s, 1H); 7.5 (dd, 1H, J=6.6, 8.5 Hz); 7.3 (m, 1H); 4.0 (s, 3H).

reactant | 2-chloro-6-fluoroanisole | 321.2 g | ClC1=C(C(=CC=C1)F)OC | C7H6ClFO
reactant | n-BuLi | 2.5 M, 890 mL | [Li]CCCC
reactant | dimethylformamide | 177 g | CN(C=O)C | C3H7NO
reactant | HCl | 260 g | Cl | ClH
solvent | tetrahydrofuran | 2 L | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 100 mL | O1CCCC1 | C4H8O
product | 4-chloro-2-fluoro-3-methoxybenzaldehyde | 282 g, 75% yield | ClC1=C(C(=C(C=O)C=C1)F)OC | C8H6ClFO2
